US07625932B2
Additional Preparation of 3-(4-bromo-phenyl)-4-cyano-5-ethyl-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester
A mixture of 4-cyano-5-ethyl-3-iodo-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester (2.0 g, 6.0 mmol, prepared in preparation 38), 4-bromophenyl boronic acid (1.32 g, 6.6 mmol), 10 mL of Na2CO3 (2M) and 20 mL of dioxane is degassed under reduced pressure (−29 inches) for 30 minutes till no bubbles. Recharge with nitrogen. Add PdCl2 (PPh)4 (0.24 mmol). Well seal the flask and heat the mixture at 80° C. overnight. After cooling, water and methylene chloride are added to the reaction mixture. It is then extracted with methylene chloride. The organic layers are combined, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue is purified by flash chromatography to provide the title compound (1.71 g, 78%). MS(ES, m/e) 361.1(M+1), 380.1(M+18). Rf=0.35 (50% ether in hexanes).

reactant | 4-cyano-5-ethyl-3-iodo-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 6.0 mmol, 2.0 g | C(C)OC(=O)C=1N(C(=C(C1I)C#N)CC)C | C11H13IN2O2
reactant | 4-bromophenyl boronic acid | 6.6 mmol, 1.32 g | BrC1=CC=C(C=C1)B(O)O | C6H6BBrO2
reactant | Na2CO3 | 2M, 10 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-(4-bromo-phenyl)-4-cyano-5-ethyl-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 1.71 g, 78% | C(C)OC(=O)C=1N(C(=C(C1C1=CC=C(C=C1)Br)C#N)CC)C | C17H17BrN2O2
